US20010000345A1
To a cooled (5° C.) solution of 2.04 g of 5-aminobenzothiazole in 60 mL of chloroform are added dropwise 2.15 g of bromine while maintaining the temperature below 10° C. After completion of the addition, the reaction mixture is stirred for 30 minutes at room temperature, then diluted with 14 mL of concentrated ammonium hydroxide and 16 mL of methylene chloride. The aqueous layer is washed with methylene chloride (2×16 mL) and the combined organic layers are rotary evaporated. The residue is purified by an aspirator vacuum-filtration through silica gel, eluting with 15% to 30 ethyl acetate in hexanes to provide 2.44 g of 5-amino-4-bromobenzothiazole as a reddish solid.

reactant | 5-aminobenzothiazole | 2.04 g | NC=1C=CC2=C(N=CS2)C1 | C7H6N2S
reactant | bromine | 2.15 g | BrBr | Br2
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ammonium hydroxide | 14 mL | [OH-].[NH4+]
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
product | 5-amino-4-bromobenzothiazole | 2.44 g | NC=1C=CC2=C(N=CS2)C1Br | C7H5BrN2S
